US07132426B2
Preparation of 4-[1-(2-Methyl-4-propylamino-phenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-yloxy]-piperidine-1-carboxylic acid isopropyl ester (Compound A215)
4-[1-(4-Iodo-2-methyl-phenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-yloxy]-piperidine-1-carboxylic acid isopropyl ester (78 mg, 0.15 mmol), propyl amine (0.75 mmole, 5 eq), proline (0.27 mole, 1.8 eq), copper iodide (0.15 mmole, 1 eq), and potassium carbonate (0.15 mmole, 1 eq) were dissolved in DMSO (2 mL) and then stirred at 100° C. for 30 mins in microwave. The crude was purified through Prep-TLC (Hexane:Ethyl Acetate=1:1, Rf=0.7) to provid compound A215 as white solid (36 mg, 53%). 1H NMR 400 MHz CDCl3 δ (ppm): 8.51 (s, 1H); 8.20(s, 1H); 7.40–7.36(m, 1H); 7.30–7.21 (m, 2H); 5.63–5.58 (m, 1H); 4.95 (sep, 1H); 3.89 (m, 2H); 3.41–3.35 (m, 2H); 3.23–3.19 (m, 2H); 2.16–2.03 (m, 4H); 1.8–1.86 (m, 2H); 1.27 (d, 6H); 1.04 (t, 2H). Exact mass calculated for C24H32N6O3 452.2, found LCMS (ESI) m/z 453.4(M+H+, 100%).

reactant | 4-[1-(4-Iodo-2-methyl-phenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-yloxy]-piperidine-1-carboxylic acid isopropyl ester | 0.15 mmol, 78 mg | C(C)(C)OC(=O)N1CCC(CC1)OC1=C2C(=NC=N1)N(N=C2)C2=C(C=C(C=C2)I)C | C21H24IN5O3
reactant | propyl amine | 0.75 mmole, 5 eq | C(CC)N | C3H9N
reactant | proline | 0.27 mole, 1.8 eq | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | potassium carbonate | 0.15 mmole, 1 eq | C([O-])([O-])=O.[K+].[K+]
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
catalyst | copper iodide | 0.15 mmole, 1 eq | [Cu](I)I
product | 4-[1-(2-Methyl-4-propylamino-phenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-yloxy]-piperidine-1-carboxylic acid isopropyl ester | C(C)(C)OC(=O)N1CCC(CC1)OC1=C2C(=NC=N1)N(N=C2)C2=C(C=C(C=C2)NCCC)C | C24H32N6O3
